US05166214
Part D. To a solution of lithium aluminum hydride, (1.52 g, 0.04 mol) in dry tetrahydrofuran (50 mL) was added, dropwise, a solution of 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide (4.04 g, 0.009 mol) in tetrahydrofuran (25 mL) and the reaction mixture was stirred at reflux for 18 hours. The reaction mixture was cooled to 0°, quenched by the slow and careful sequential addition of water (1.52 mL), 15% sodium hydroxide (4.56 mL), and water (4.56 mL), and then stirred at 0° for 30 minutes. The solution was then dried over magnesium sulfate and concentrated under vacuum, and the residue was chromatographed with a gradient of 1:0 to 3:1 to 1:1 ethyl acetate-methanol. The resulting yellow oil was triturated with cold hexane to give N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine as a white solid. A solution of this amine (0.80 g, 0.0018 mol) in ether (20 mL) was treated with a sufficient amount of ethereal HCl (about 25 mL) to cause complete precipitation of the amine as the hydrochloride salt. The reaction mixture was stirred for 15 minutes, and the supernatant liquid was decanted to afford a gummy solid, which was triturated with hot acetonitrile and then with cold hexane to give N-[5-(4,5-diphenyl-1H-imidazol-2 -ylthio)pentyl]-1-heptanamine hydrochloride (0.82 g, 0.0017 mol) as a white solid, mp 187°-190°. 1H NMR (CDCl3) δ9.3(s,2H), 7.7-7.3(m,10H), 3.7-3.5(m,2H), 3.0-2.7(m,4H), 2.0-1.2(m,16H), 0.9(1,3H,J=8Hz).

reactant | lithium aluminum hydride | 0.04 mol, 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptylpentanamide | 0.009 mol, 4.04 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)NCCCCCCC | C27H35N3OS
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | N-[5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentyl]-1-heptanamine | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCNCCCCCCC | C27H37N3S
